US08580785B2
h) Preparation of 8-chloro-7-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-quinoxaline-6-carboxylic acid cyclopropylmethyl-amide
0.55 g (1.15 mol) 9-chloro-2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-3-oxa-1,5,8-triaza-anthracen-4-one and 0.5 ml C-cyclopropylmethylamine is dissolved in 15 ml THF and stirred for 8 hours. After evaporation, the residue is crystallised in diethyl ether to give 0.47 g (74%) of the title compound. m.p.: 180-183° C.

reactant | 9-chloro-2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-3-oxa-1,5,8-triaza-anthracen-4-one | 1.15 mol, 0.55 g | ClC=1C2=NC=CN=C2C=C2C(OC(=NC12)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O | C19H7Cl2F3N6O2
reactant | C-cyclopropylmethylamine | 0.5 ml | C1(CC1)CN | C4H9N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 8-chloro-7-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-quinoxaline-6-carboxylic acid cyclopropylmethyl-amide | 0.47 g, 74% | C1(CC1)CNC(=O)C=1C=C2N=CC=NC2=C(C1NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)Cl | C23H16Cl2F3N7O2
